US06933295B2
5-Chloro-N-{2-[3-(isocyanatomethyl)benzyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
A solution of 430 mg (1.0 mmol) of N-{2-[3-(aminomethyl)benzyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide and 433 mg (2.0 mmol) of 1,8-bis-(dimethylamino)naphthalene in 222 ml of dichloromethane is added dropwise to an ice-cooled solution of 0.12 ml (0.96 mmol) of diphosgene in 7.5 ml of dichloromethane. After 5 min at 0° C., the mixture is warmed to room temperature and stirred for 35 min, and 40 ml of ether are then added. Insoluble particles are filtered off and the filtrate is concentrated and dried under high vacuum. The resulting solid is immediately reacted further, without further purification. Yield: 454 mg (99.5% of theory).

reactant | N-{2-[3-(aminomethyl)benzyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-5-chloro-2-thiophenecarboxamide | 1.0 mmol, 430 mg | NCC=1C=C(CN2C(C3=CC=CC(=C3C2=O)NC(=O)C=2SC(=CC2)Cl)=O)C=CC1 | C21H16ClN3O3S
reactant | 1,8-bis-(dimethylamino)naphthalene | 2.0 mmol, 433 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | diphosgene | 0.96 mmol, 0.12 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | ether | 40 ml | CCOCC | C4H10O
solvent | dichloromethane | 222 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7.5 ml | ClCCl | CH2Cl2
product | 5-Chloro-N-{2-[3-(isocyanatomethyl)benzyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC1=CC(=CC=C1)CN=C=O)=O | C22H14ClN3O4S
